US06291530B1
To a solution of methyl (E)-5-(2-chlorocarbonyl-1-methylvinyl)-2-(1-phenylethoxy)-benzoate (1.0 g, 2.79 mmol)in THF (50 mL) is added diethylamine (1.16 mL, 11.8 mmol), and the mixture is stirred at room temperature for 3 hours, after which time THF is removed in vacuo, and the residue is lssoved in CH2Cl2 (75 mL) and then washed with 1 N HCl (2×100 mL) and brine (1×50 mL), and dried over MgSO4. Chromatography (silica, 2:1 hexane/EtOAc) yields methyl (E)-5-(2-diethylcarbamoyl-1-methylvinyl)-2-(1-phenylethoxy)-benzoate.

reactant | methyl (E)-5-(2-chlorocarbonyl-1-methylvinyl)-2-(1-phenylethoxy)-benzoate | 2.79 mmol, 1.0 g | ClC(=O)/C=C(\C)/C=1C=CC(=C(C(=O)OC)C1)OC(C)C1=CC=CC=C1 | C20H19ClO4
reactant | diethylamine | 11.8 mmol, 1.16 mL | C(C)NCC | C4H11N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl (E)-5-(2-diethylcarbamoyl-1-methylvinyl)-2-(1-phenylethoxy)-benzoate | C(C)N(C(=O)/C=C(\C)/C=1C=CC(=C(C(=O)OC)C1)OC(C)C1=CC=CC=C1)CC | C24H29NO4
